US06916822B2
1-[4-(4,4-Dimethyloxazolin-2-yl)phenyl]-1-(2-methoxyphenyl)methyl alcohol (100 mg) was dissolved in pyridine (0.4 ml), added with acetic anhydride (0.25 ml) with ice cooling and stirred at room temperature for 4 hours. After the reaction mixture was added with methanol (0.25 ml) with ice cooling and stirred at room temperature for 10 minutes, the solvent was evaporated under reduced pressure to obtain 1-[4-(4,4-dimethyloxazolin-2-yl)phenyl]-1-(2-methoxyphenyl)methyl acetate.

reactant | 1-[4-(4,4-Dimethyloxazolin-2-yl)phenyl]-1-(2-methoxyphenyl)methyl alcohol | 100 mg | CC1(N=C(OC1)C1=CC=C(C=C1)C(C1=C(C=CC=C1)OC)O)C | C19H21NO3
reactant | acetic anhydride | 0.25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 0.25 ml | CO | CH4O
solvent | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
product | 1-[4-(4,4-dimethyloxazolin-2-yl)phenyl]-1-(2-methoxyphenyl)methyl acetate | C(C)(=O)OC(C1=C(C=CC=C1)OC)C1=CC=C(C=C1)C=1OCC(N1)(C)C | C21H23NO4
